US05166399
Methyl 2-[3-(1-n-butoxyiminoethyl)phenoxymethyl]phenylglyoxylate O-methyloxime
5.8 g (0.017 mol) of methyl 2-(3-acetylphenoxymethyl)phenylglyoxylate O-methyloxime and 2.5 g (0.020 mol) of n-butoxyamine hydrochloride in 60 ml of methanol are stirred at room temperature for 24 hours. The mixture is then hydrolyzed with water and extracted with methyl tert-butyl ether. The organic phase is washed with water, dried and concentrated. 5.0 g (71%) of the title compound are obtained as a colorless oil (compound no. 470).

reactant | methyl 2-(3-acetylphenoxymethyl)phenylglyoxylate O-methyloxime | 0.017 mol, 5.8 g | CON=C(C(=O)OC)C1=C(C=CC=C1)COC1=CC(=CC=C1)C(C)=O | C19H19NO5
reactant | n-butoxyamine hydrochloride | 0.020 mol, 2.5 g | Cl.C(CCC)ON
solvent | methanol | 60 ml | CO | CH4O
product | Methyl 2-[3-(1-n-butoxyiminoethyl)phenoxymethyl]phenylglyoxylate O-methyloxime | 5.0 g, 71% | CON=C(C(=O)OC)C1=C(C=CC=C1)COC1=CC(=CC=C1)C(C)=NOCCCC | C23H28N2O5
